US06429214B1
[7-(4-tert-Butoxycarbonylaminobutoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester
The title compound is prepared using the conditions of Example 75 and (1-benzyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester in place of 7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)acetic acid methyl ester and (4-bromobutyl)carbamic acid tert-butyl ester in place of (2-bromoethyl) carbamic acid tert-butyl ester.

reactant | (1-benzyl-7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)O)CC1=CC=CC=C1)=O)=O | C19H17NO4
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | (4-bromobutyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCBr)=O | C9H18BrNO2
product | [7-(4-tert-Butoxycarbonylaminobutoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)OCCCCNC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C28H34N2O6
